US07884113B2
162A. N-(2-Oxo-1,2,3,4-tetrahydroquinolin-3-yl)-benzenesulfonamide
To a suspension of 3-amino-3,4-dihydro-1H-quinolin-2-one (177.6 mg, 0.59 mmol) (prepared according to the procedures by Davis, A. L.; et al, Arch. Biochem. Biophys., 102, 48 (1963)) in CH3CN (5 mL) was added DIPEA (0.24 mL, 1.44 mmol), followed by addition of benzene sulfonylchloride (0.09 mL, 0.71 mmol). The mixture was stirred at RT for 1.5 h, then concentrated in vacuo. The residue was taken into EtOAc (30 ml), washed with water, brine, dried (MgSO4) and concentrated. The residue was chromatographed (silica gel) eluting with EtOAc (50-90%) in hexane to give the title compound (140 mg, 78%).

reactant | 3-amino-3,4-dihydro-1H-quinolin-2-one | 0.59 mmol, 177.6 mg | NC1C(NC2=CC=CC=C2C1)=O | C9H10N2O
reactant | DIPEA | 1.44 mmol, 0.24 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzene sulfonylchloride | 0.71 mmol, 0.09 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | N-(2-Oxo-1,2,3,4-tetrahydroquinolin-3-yl)-benzenesulfonamide | 140 mg, 78% | O=C1NC2=CC=CC=C2CC1NS(=O)(=O)C1=CC=CC=C1 | C15H14N2O3S
